US06121460
200 g N-acetyl-indoline-2-carboxylic acid (purity 96.5%) was dissolved in 1760 ml of a mixture containing 90% EtOH, 5% water and 5% MeOH, with heating to 76° C., and with mechanical stirring. 138 g/0.69 eq (1R,2R)-1-(4-nitrophenyl)-2-amino-1,3-propanediol (99.5% chemically pure, [a]20 D =-28.5° (c=0.4, 1N HCl)) was dosed in portions in 30 min. at 73-76° C. After cooling to 70° C., grafting with 1 g S-salt took place, followed by cooling to 15° C. in 3 hours and 30 minutes' subsequent stirring. After filtration over a P4 glass filter, 3 washings with 200 ml EtOH took place. After air-drying, 158.1 g yellow (S)-N-acetyl-indoline-2-carboxylic acid-(1R,2R)-1-(4-nitrophenyl)-2-amino-1,3-propanediol salt was obtained, corresponding to a yield of 40.3%. Enantiomeric excess=99.0% (chiral HPLC).

reactant | N-acetyl-indoline-2-carboxylic acid | 200 g | C(C)(=O)N1C(CC2=CC=CC=C12)C(=O)O | C11H11NO3
reactant | EtOH | CCO | C2H6O
reactant | (1R,2R)-1-(4-nitrophenyl)-2-amino-1,3-propanediol | 0.69 eq | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]([C@@H](CO)N)O | C9H12N2O4
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | (S)-N-acetyl-indoline-2-carboxylic acid-(1R,2R)-1-(4-nitrophenyl)-2-amino-1,3-propanediol salt | 158.1 g, yield of 40.3% | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]([C@@H](CO)N)O.C(C)(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | InChI=1S/C11H11NO3.C9H12N2O4/c1-7(13)12-9-5-3-2-4-8(9)6-10(12)11(14)15;10-8(5-12)9(13)6-1-3-7(4-2-6)11(14)15/h2-5,10H,6H2,1H3,(H,14,15);1-4,8-9,12-13H,5,10H2/t10-;8-,9-/m01/s1
